2126-09-08 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Deep suctioning pulled almost 1L of frothy, yellow sputum, sent samples
   for culture and Gram stain
   Spiked fever x 2. UA, CXR, and BCx sent with first spike. Second spike
   was after deep suctioning
   CXR increasing RLL infiltrate. Consider CT
   ABG in the AM showed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-8**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   BP: 133/67(116) {0/0(0) - 0/0(0)} mmHg
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.41/49/66//4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   12.8 g/dL
   154 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.5 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   38.0 %
   9.1 K/uL
        [image002.jpg]
   BLOOD GASES
                                    Type
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   [1][**2126-9-7**] 01:50PM
                                     ART
                                     66*
                                     49*
                                    7.41
                                     32*
                                      4
   [2][**2126-9-7**] 10:10AM
                                     ART
                                     68*
                                     49*
                                    7.42
                                     33*
                                      5
   [3][**2126-9-6**] 06:26PM
                                     ART
                                     78*
                                     45
                                    7.46*
                                     33*
                                      6
                             [**2126-9-1**]  01:28 PM
                             [**2126-9-2**]  05:06 AM
                             [**2126-9-2**]  11:39 AM
                             [**2126-9-2**]  04:11 PM
                             [**2126-9-3**]  01:55 AM
                             [**2126-9-3**]  02:13 AM
                             [**2126-9-4**]  02:43 AM
                             [**2126-9-7**]  07:40 AM
                             [**2126-9-7**]  01:50 PM
                             [**2126-9-8**]  03:07 AM
   WBC
   9.2
   8.3
   8.1
   6.8
   9.1
   Hct
   36.5
   36.0
   38.1
   39.4
   38.0
   Plt
   118
   109
   101
   119
   181
   Cr
   0.9
   0.8
   0.7
   TropT
   0.01
   TCO2
   27
   27
   31
   32
   Glucose
   112
   114
   154
   Other labs: PT / PTT / INR:13.0/27.4/1.1, CK / CKMB /
   Troponin-T:25/4/0.01, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:1.0
   %, Mono:12.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: 81 year old male s/p hemorrhagic stroke now with pneumonia, fever,
   hypoxia.
   1. Pneumonia: Retrocardiac opacity--HAP vs. VAP vs. aspiration. Cover
   for VAP for now given the progression of his opacity after
   extubation--vancomycin/Zosyn/Cipro for now.
   - Last sputum ([**9-6**]) with 4+ GNR and 2+ GPC, will repeat and follow
   cultures.
   - Has blood cultures pending
   - Continue respiratory support. Alternate CPAP with mask
   - Tolerating CPAP currently, but low threshold for intubation given the
   underlying insult is pneumonia and not likely to be easily reversible.
   Family agrees to repeat intubation if necessary.
   - Suctioning/chest PT as tolerated
   - Follow ABG.
   - Currently, BP stable and not tachycardic (on beta blocker).
   - Follow UOP and bolus fluid as needed.
   2. Hemorrhagic CVA: per neuro step-down team, concern for worsening
   neurologic status over last 24 hours--but ? toxic-metabolic in the
   setting of worsening infection. On current exam, not awaking to name or
   following commands, but is moving right limbs. Pupils are equal and
   reactive. [**Month (only) 60**] require repeat CT head--hold off for now.  BP control
   with metoprolol, currently SBP 140s.
   3. ECG changes with recurrent hypoxia: Hypoxia much more likely related
   to pulmonary disease, however, ischemia is possible given change in
   axis and R-wave progression.
   - CEs negative
   - may require echocardiogram if does not improve with above pulmonary
   interventions. Continue beta blocker, statin.
   4. Psych: continue donepezil, lexapro. hold clonazepam given worsening
   mental status.
   5. Thrombocytopenia: improving, even though on heparin.
   6. Pulastile mass on the head at the site of CSF shunt:
   - Neurosurgery following. Will image brain and consider accessing site
   and culturing.
   ICU Care
   Nutrition:
   Glycemic Control:  resuming tube feeds
   Lines:
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);

2126-09-09 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Head CT: no significant interval change
   Restarted tube feeds at half rate
   Continued concern for drying of secretions, bolused 500 mL NS
   Tachypnic to 30s, got ABG.  Later called for decreased responsiveness,
   desats to 80s, repeat ABG:  Ordered CSR, tolerating shovel mask
   overnight then to CPAP for increased PaCO2.
   [**2126-9-9**] 12:02AM    ART             53*1 43 7.47* 32* 6
   [**2126-9-8**] 11:06PM    ART 37.3           94 45 7.45 32* 6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cirpo
   Vanco
   Zosyn
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-9**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 66 (61-86) bpm
   BP: 153/63 (136-183/79-122) mmHg
   RR: 27 (22-32)
   SpO2: 97 (93-97%)
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   Ventilator mode: Alternating BIPAP ([**10-30**]) and Shovel Mask FiO2 60%
   ABG: 7.38/54/111/32/5
   Physical Examination
   GEN: Lying in bed with CPAP on.
   HEENT: Stable effusion on head.
   LUNGS: CTAB
   HEART: RRR
   ABD: normoactive BS NT/ND
   EXTREM: Moving left LE and LUE today.
   NEURO: Opens eyes to name.
   Labs / Radiology
   171 K/uL
   11.8 g/dL
   143 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   26 mg/dL
   98 mEq/L
   136 mEq/L
   34.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2126-9-4**]  02:43 AM
                             [**2126-9-7**]  07:40 AM
                             [**2126-9-7**]  01:50 PM
                             [**2126-9-8**]  03:07 AM
                             [**2126-9-8**]  05:30 AM
                             [**2126-9-8**]  02:57 PM
                             [**2126-9-8**]  11:06 PM
                             [**2126-9-9**]  12:02 AM
                             [**2126-9-9**]  02:27 AM
                             [**2126-9-9**]  04:30 AM
   WBC
   6.8
   9.1
   12.1
   Hct
   39.4
   38.0
   34.7
   Plt
   119
   181
   171
   Cr
   0.7
   1.0
   1.0
   0.8
   TropT
   0.01
   TCO2
   32
   32
   32
   32
   33
   Glucose
   154
   129
   149
   143
   Other labs: PT / PTT / INR:13.0/27.4/1.1, CK / CKMB /
   Troponin-T:25/4/0.01, Differential-Neuts:90.1 %, Band:0.0 %, Lymph:6.4
   %, Mono:3.1 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Cultures: Serratia positive in sputum
   [1][**2126-9-9**] 05:39AM
                                     ART
                                     99
                                     55*
                                    7.40
                                     35*
                                      6
   [2][**2126-9-9**] 02:27AM
                                     ART
                                    111*
                                     54*
                                    7.38
                                     33*
                                      5
   [3][**2126-9-9**] 12:02AM
                                     ART
                                   53*[2]
                                     43
                                    7.47*
                                     32*
                                      6
   [4][**2126-9-8**] 11:06PM
                                     ART
                                     94
                                     45
                                    7.45
                                     32*
                                      6
   [5][**2126-9-8**] 05:30AM
                                     ART
                                     89
                                     44
                                    7.46*
                                     32*
                                      6
   Assessment and Plan
   A/P: 81 year old male s/p hemorrhagic stroke now with pneumonia, fever,
   hypoxia.
   1. Pneumonia: Retrocardiac opacity--HAP vs. VAP vs. aspiration. Cover
   for VAP for now given the progression of his opacity after extubation.
   Likely has recurrent aspiration with poor cough response [**2-23**] CVA.
   - D/C
d Vanc and Zosyn. Cte Cipro for Serratia positive sputum.
   - Has blood cultures pending
   - Continue respiratory support.  Will try to wean off CPAP today.
   - Tolerating CPAP currently, but low threshold for intubation given the
   underlying insult is pneumonia and not likely to be easily reversible.
   Family agrees to repeat intubation if necessary. Will have family
   meeting today to further discuss their options for his care.
   - Suctioning/chest PT as tolerated
   - Follow ABG.
   - Currently, BP stable and not tachycardic (on beta blocker).
   - Follow UOP and bolus fluid as needed.
   2. Hemorrhagic CVA: per neuro step-down team, concern for worsening
   neurologic status over last 24 hours--but ? toxic-metabolic in the
   setting of worsening infection. On current exam, not awaking to name or
   following commands, but is moving right limbs. Pupils are equal and
   reactive. [**Month (only) 60**] require repeat CT head--hold off for now.  BP control
   with metoprolol, currently SBP 140s.
   3. ECG changes with recurrent hypoxia: Hypoxia much more likely related
   to pulmonary disease, however, ischemia is possible given change in
   axis and R-wave progression.
   - CEs negative
   - may require echocardiogram if does not improve with above pulmonary
   interventions. Continue beta blocker, statin.
   4. Psych: continue donepezil, lexapro. hold clonazepam given worsening
   mental status.
   5. Thrombocytopenia: improving, even though on heparin.
   6. Pulastile mass on the head at the site of CSF shunt:
   - Neurosurgery following. Will image brain and consider accessing site
   and culturing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  PIV X 3
   Prophylaxis:
   DVT: Boots and SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: IN MICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);

2126-09-10 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting: Pt will continue to get full support including
   re-intubation if necessary.
   Weaned off bipap to shovel mask but secretions continue to be thick and
   cough reflex not strong.
   BP was increased and 10mg hydralazine was given with good effect. Had
   some NSVT and mag was repleted.
   Grew GNR and yeast in sputum. Sensitivities pending.  D/c other abx and
   continued cipro for serratia in sputum.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-10**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   BP: 133/67(116) {0/0(0) - 0/0(0)} mmHg
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.49/44/86.[**Numeric Identifier 96**]/31/9
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   12.1 g/dL
   153 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   25 mg/dL
   97 mEq/L
   134 mEq/L
   35.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-9-8**]  02:57 PM
                             [**2126-9-8**]  11:06 PM
                             [**2126-9-9**]  12:02 AM
                             [**2126-9-9**]  02:27 AM
                             [**2126-9-9**]  04:30 AM
                             [**2126-9-9**]  05:39 AM
                             [**2126-9-9**]  05:00 PM
                             [**2126-9-9**]  07:12 PM
                             [**2126-9-9**]  07:49 PM
                             [**2126-9-10**]  04:53 AM
   WBC
   12.1
   10.7
   9.2
   Hct
   34.7
   38.0
   35.2
   Plt
   171
   238
   248
   Cr
   1.0
   0.8
   0.7
   0.8
   0.8
   TCO2
   32
   32
   33
   35
   34
   Glucose
   149
   143
   809
   134
   153
   Other labs: PT / PTT / INR:13.0/27.4/1.1, CK / CKMB /
   Troponin-T:25/4/0.01, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:6.6
   %, Mono:4.2 %, Eos:0.5 %, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A/P: 81 year old male s/p hemorrhagic stroke now with pneumonia, fever,
   hypoxia.
   1. Pneumonia: Retrocardiac opacity--HAP vs. VAP vs. aspiration. Cover
   for VAP for now given the progression of his opacity after extubation.
   Likely has recurrent aspiration with poor cough response [**2-23**] CVA.
   - D/C
d Vanc and Zosyn. Cte Cipro for Serratia positive sputum.
   - Has blood cultures pending
   - Continue respiratory support.  Will try to wean off CPAP today.
   - Tolerating CPAP currently, but low threshold for intubation given the
   underlying insult is pneumonia and not likely to be easily reversible.
   Family agrees to repeat intubation if necessary. Will have family
   meeting today to further discuss their options for his care.
   - Suctioning/chest PT as tolerated
   - Follow ABG.
   - Currently, BP stable and not tachycardic (on beta blocker).
   - Follow UOP and bolus fluid as needed.
   2. Hemorrhagic CVA: per neuro step-down team, concern for worsening
   neurologic status over last 24 hours--but ? toxic-metabolic in the
   setting of worsening infection. On current exam, not awaking to name or
   following commands, but is moving right limbs. Pupils are equal and
   reactive. [**Month (only) 60**] require repeat CT head--hold off for now.  BP control
   with metoprolol, currently SBP 140s.
   3. ECG changes with recurrent hypoxia: Hypoxia much more likely related
   to pulmonary disease, however, ischemia is possible given change in
   axis and R-wave progression.
   - CEs negative
   - may require echocardiogram if does not improve with above pulmonary
   interventions. Continue beta blocker, statin.
   4. Psych: continue donepezil, lexapro. hold clonazepam given worsening
   mental status.
   5. Thrombocytopenia: improving, even though on heparin.
   6. Pulastile mass on the head at the site of CSF shunt:
   - Neurosurgery following. Will image brain and consider accessing site
   and culturing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-09-11 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Mild agitation, started 2.5 mg Zyprexa prn with good response
   Pt continues to struggle to breath, on BiPap
   but respiratory status seems improved subjectively and based on his
   numbers.
   Now on ciprofloxacin only. Other ABx DCed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-11**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tc- 100.1
   Tm101
   HR 92 (64-92)
   BP 133/67
   RR 25 (20-36)
        Recheck 36, SaO2 92%
   SaO2 97% (92-99%)
                  Total In:
                                                                     2.7 L
                                                                     .86 L
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                     3.4 L
                                                                     .71 L
   Urine:
   NG:
   Stool:
   Drains:
   LOS Balance:
                                                                    +3.8 L
   Respiratory support
   Most recent ABG([**9-9**]): 87/44/7.49
   BiPap: IPAP 10   EPAP 8
   Physical Examination
   Gen: Lying in bed, eyes open, not responding to voice
   Chest: coarse BS
   CV: reg rate
   Abd: +BS, soft
   Labs / Radiology
   339 K/uL
   13.5 g/dL
   153 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.7 mEq/L
   26 mg/dL
   96 mEq/L
   138 mEq/L
   38.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2126-9-8**]  11:06 PM
                             [**2126-9-9**]  12:02 AM
                             [**2126-9-9**]  02:27 AM
                             [**2126-9-9**]  04:30 AM
                             [**2126-9-9**]  05:39 AM
                             [**2126-9-9**]  05:00 PM
                             [**2126-9-9**]  07:12 PM
                             [**2126-9-9**]  07:49 PM
                             [**2126-9-10**]  04:53 AM
                             [**2126-9-11**]  04:21 AM
   WBC
   12.1
   10.7
   9.2
   8.8
   Hct
   34.7
   38.0
   35.2
   38.7
   Plt
   171
   238
   248
   339
   Cr
   0.8
   0.7
   0.8
   0.8
   0.9
   TCO2
   32
   32
   33
   35
   34
   Glucose
   143
   809
   134
   153
   153
   Other labs: PT / PTT / INR:13.0/27.4/1.1, CK / CKMB /
   Troponin-T:25/4/0.01, ALT / AST:132/84, Alk Phos / T Bili:147/0.7,
   Differential-Neuts:88.4 %, Band:0.0 %, Lymph:6.6 %, Mono:4.2 %, Eos:0.5
   %, Lactic Acid:0.8 mmol/L, LDH:282 IU/L, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   CXR:
   [**9-11**] ? improved, pending final read
   [**9-10**] Increased but mild cardiomegaly, no pulm edema, stable left
   opacity, improving right opacity
   Assessment and Plan
   A/P: 81 year old male s/p hemorrhagic stroke with likely aspiration
   pneumonia, fever-resolved, and continued increased respiratory effort
   1. Pneumonia: likely aspiration, Serratia positive sputum.
   - D/C
d Vanc and Zosyn on [**9-9**]. Cte Cipro for Serratia positive sputum
   on [**9-6**]; H.flu and yeast on [**9-7**].
   - Nystatin - ? swish and swallow for oral thrush
   - Has blood cultures pending
   - Continue respiratory support. .
   - Family wants to continue full code status.  Agrees to repeat
   intubation if necessary.
   - Suctioning/chest PT as tolerated
   - Follow ABG.
   - Currently, BP stable and not tachycardic (on beta blocker).
   - Follow UOP and bolus fluid as needed.
   2. Hemorrhagic CVA: Improving level of awareness, speaking, responding
   to questions.  Continue to monitor
   3. ECG changes with recurrent hypoxia: Hypoxia much more likely related
   to pulmonary disease, however, ischemia is possible given change in
   axis and R-wave progression.
   - CEs negative
   -Continue beta blocker, statin.
   4. Psych: On Donepeizil, escitalopram, Zyprexa
   - Agitated. Now on PRN low dose olanzapine with good effect
   5. Pulastile mass on the head at the site of CSF shunt:
   - Neurosurgery following
   6. Thrombocytopenia: Resolved
   7. Prophy: PPI, heparin
   8.  Access: 20g
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-09-12 05:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ABG [**9-11**]:
   7.51/44/77
   Continues to require nasal bipap, sats are 70s w/o
   Had multiple conversations with family yesterday.  Pt remains full code
   pending family decision; family is considering a trach/PEG
   Still awaiting final neuro recs, as well as final read on yesterday
   EEG
   Access is an issue here
just a single peripheral
   ?New RUL infiltrate on today
s CXR
   WBC slowly rising now. ?restart Abx other than ciprofloxacin
   Around noon pt was having trouble breathing through upper airway
   inflammation and secretions and required intubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-12**] 04:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tc: 100.0 rectal
   Tm: 101.0 8am [**2126-9-11**]
   HR: 78
   BP: 135/77
   RR: 26
   SaO2: 98
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.51/44/77//10
   Physical Examination
   GEN: Dyspneic, unresponsive, on nasal CPAP
   HEENT: Dry MM, no JVD
   CV: Challenging exam [**2-23**] ronchi. ?RRR, NL S1S2, no S3S4
   PULM: Coarse ronchi in all fields obscuring all other sounds
   ABD: BS+, NTND no masses or HSM
   NEURO: Unresponsive to pain. Pupils reactive to light. Panhyporeflexia.
   Toes up bilat
   Labs / Radiology
   339 K/uL
   13.5 g/dL
   153 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.7 mEq/L
   26 mg/dL
   96 mEq/L
   138 mEq/L
   38.7 %
   8.8 K/uL
        [image002.jpg]
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                   Plt Ct
   [1][**2126-9-12**] 04:37AM
                                    10.3
                                    3.95*
                                    12.6*
                                    36.1*
                                     91
                                     292
   [2][**2126-9-11**] 04:21AM
                                     8.8
                                    4.23*
                                    13.5*
                                    38.7*
                                     92
                                     339
   [3][**2126-9-10**] 04:53AM
                                     9.2
                                    3.84*
                                    12.1*
                                    35.2*
                                     92
                                     248
   [4][**2126-9-9**] 07:12PM
                                    10.7
                                    4.12*
                                    12.8*
                                    38.0*
                                     92
                                     238
   [5][**2126-9-9**] 04:30AM
                                    12.1*
                                    3.79*
                                    11.8*
                                    34.7*
                                     92
                                     171
   BLOOD GASES
                                    Type
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   [6][**2126-9-12**] 05:24AM
                                     ART
                                     97
                                     49*
                                    7.48*
                                     38*
                                     11
   [7][**2126-9-11**] 03:35PM
                                     ART
                                     77*
                                     44
                                    7.51*
                                     36*
                                     10
                             [**2126-9-9**]  12:02 AM
                             [**2126-9-9**]  02:27 AM
                             [**2126-9-9**]  04:30 AM
                             [**2126-9-9**]  05:39 AM
                             [**2126-9-9**]  05:00 PM
                             [**2126-9-9**]  07:12 PM
                             [**2126-9-9**]  07:49 PM
                             [**2126-9-10**]  04:53 AM
                             [**2126-9-11**]  04:21 AM
                             [**2126-9-11**]  03:35 PM
   WBC
   12.1
   10.7
   9.2
   8.8
   Hct
   34.7
   38.0
   35.2
   38.7
   Plt
   171
   238
   248
   339
   Cr
   0.8
   0.7
   0.8
   0.8
   0.9
   TCO2
   32
   33
   35
   34
   36
   Glucose
   143
   809
   134
   153
   153
   Other labs: PT / PTT / INR:14.0/27.3/1.2, CK / CKMB /
   Troponin-T:25/4/0.01, ALT / AST:132/84, Alk Phos / T Bili:147/0.7,
   Differential-Neuts:88.4 %, Band:0.0 %, Lymph:6.6 %, Mono:4.2 %, Eos:0.5
   %, Lactic Acid:0.8 mmol/L, LDH:282 IU/L, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   A/P: 81 year old male s/p hemorrhagic stroke with likely aspiration
   pneumonia, fever-resolved, and continued increased respiratory effort
   1. Pneumonia: likely aspiration, Serratia and Haemophillus positive
   sputum.  Now intubated
   - D/C
d Vanc and Zosyn on [**9-9**]. Continue Cipro for Serratia positive
   sputum on [**9-6**]; H.flu and yeast on [**9-7**].
   - mouth care
   - Has blood cultures pending
   - Continued need for respiratory support. .
   - At this time, pt is full code pending a family decision.  Family is
   also discussing trach, PEG
   - Suctioning/chest PT as tolerated
   2. Hemorrhagic CVA: Unclear prognosis
   3. Psych: On Donepeizil, escitalopram, Zyprexa
   - Agitated. Now on PRN low dose olanzapine with good effect
   4. Pulastile mass on the head at the site of CSF shunt:
   - Neurosurgery following, do not anticipate need for intervention
   5. ECG changes: resolved
   - CEs negative
   -Continue beta blocker, statin.
   6. Thrombocytopenia: Resolved
   7. Prophy: PPI, heparin
   8.  FEN:
   - Replete with fiber tube feeds.  Unclear if will get PEG
   - Sliding scale insulin
   - PRN bowel regimen
   8.  Access: 20g x2, PICC to be placed today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: 2 peripherals. PICC to be placed today
   Prophylaxis:
   DVT: boots and SC heparin
   Stress ulcer: PPI
   VAP:  Head elevation
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);

2126-09-13 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Palliative care consult called and family decided will be DNR/DNI and
   pull tube on Saturday once all of the  family can be together at the
   bedside.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-13**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   BP: 133/67(116) {0/0(0) - 0/0(0)} mmHg
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   301 K/uL
   11.1 g/dL
   326 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.4 mEq/L
   36 mg/dL
   96 mEq/L
   133 mEq/L
   32.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-9-9**]  05:39 AM
                             [**2126-9-9**]  05:00 PM
                             [**2126-9-9**]  07:12 PM
                             [**2126-9-9**]  07:49 PM
                             [**2126-9-10**]  04:53 AM
                             [**2126-9-11**]  04:21 AM
                             [**2126-9-11**]  03:35 PM
                             [**2126-9-12**]  04:37 AM
                             [**2126-9-12**]  05:24 AM
                             [**2126-9-13**]  04:41 AM
   WBC
   10.7
   9.2
   8.8
   10.3
   10.0
   Hct
   38.0
   35.2
   38.7
   36.1
   32.1
   Plt
   238
   248
   339
   292
   301
   Cr
   0.7
   0.8
   0.8
   0.9
   0.8
   1.1
   TCO2
   35
   34
   36
   38
   Glucose
   [**Telephone/Fax (3) 4600**]53
   155
   326
   Other labs: PT / PTT / INR:15.0/33.0/1.3, CK / CKMB /
   Troponin-T:25/4/0.01, ALT / AST:132/84, Alk Phos / T Bili:147/0.7,
   Differential-Neuts:85.3 %, Band:0.0 %, Lymph:8.5 %, Mono:4.4 %, Eos:1.6
   %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:282 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: 81 year old male s/p hemorrhagic stroke with likely aspiration
   pneumonia, fever-resolved, and continued increased respiratory effort
   1. Pneumonia: likely aspiration, Serratia and Haemophillus positive
   sputum.  Now intubated
   - D/C
d Vanc and Zosyn on [**9-9**]. Continue Cipro for Serratia positive
   sputum on [**9-6**]; H.flu and yeast on [**9-7**].
   - mouth care
   - Has blood cultures pending
   - Continued need for respiratory support. .
   - At this time, pt is full code pending a family decision.  Family is
   also discussing trach, PEG
   - Suctioning/chest PT as tolerated
   2. Hemorrhagic CVA: Unclear prognosis
   3. Psych: On Donepeizil, escitalopram, Zyprexa
   - Agitated. Now on PRN low dose olanzapine with good effect
   4. Pulastile mass on the head at the site of CSF shunt:
   - Neurosurgery following, do not anticipate need for intervention
   5. ECG changes: resolved
   - CEs negative
   -Continue beta blocker, statin.
   6. Thrombocytopenia: Resolved
   7. Prophy: PPI, heparin
   8.  FEN:
   - Replete with fiber tube feeds.  Unclear if will get PEG
   - Sliding scale insulin
   - PRN bowel regimen
   8.  Access: 20g x2, PICC to be placed today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: 2 peripherals. PICC to be placed today
   Prophylaxis:
   DVT: boots and SC heparin
   Stress ulcer: PPI
   VAP:  Head elevation
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-09-14 05:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt to be extubated with family at the bedside today
   Escalation of care withheld
   Switched sedation to fentanyl
   Held suctioning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-9-14**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   BP: 133/67(116) {0/0(0) - 0/0(0)} mmHg
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   301 K/uL
   11.1 g/dL
   326 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.4 mEq/L
   36 mg/dL
   96 mEq/L
   133 mEq/L
   32.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-9-9**]  05:39 AM
                             [**2126-9-9**]  05:00 PM
                             [**2126-9-9**]  07:12 PM
                             [**2126-9-9**]  07:49 PM
                             [**2126-9-10**]  04:53 AM
                             [**2126-9-11**]  04:21 AM
                             [**2126-9-11**]  03:35 PM
                             [**2126-9-12**]  04:37 AM
                             [**2126-9-12**]  05:24 AM
                             [**2126-9-13**]  04:41 AM
   WBC
   10.7
   9.2
   8.8
   10.3
   10.0
   Hct
   38.0
   35.2
   38.7
   36.1
   32.1
   Plt
   238
   248
   339
   292
   301
   Cr
   0.7
   0.8
   0.8
   0.9
   0.8
   1.1
   TCO2
   35
   34
   36
   38
   Glucose
   [**Telephone/Fax (3) 4600**]53
   155
   326
   Other labs: PT / PTT / INR:15.0/33.0/1.3, CK / CKMB /
   Troponin-T:25/4/0.01, ALT / AST:132/84, Alk Phos / T Bili:147/0.7,
   Differential-Neuts:85.3 %, Band:0.0 %, Lymph:8.5 %, Mono:4.4 %, Eos:1.6
   %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:282 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: 81 year old male s/p hemorrhagic stroke with likely aspiration
   pneumonia, fever-resolved, and continued increased respiratory effort.
   Intubated for hypoxia and hypercarbia plus increasing work of
   breathing. Family meeting held and decided to go to CMO today
   1. Pneumonia: likely aspiration, Serratia and Haemophillus positive
   sputum.  Now intubated
   - D/C
d Vanc and Zosyn on [**9-9**]. Continue Cipro for Serratia positive
   sputum on [**9-6**]; H.flu and yeast on [**9-7**].
   - mouth care
   - Ventilated
   - Family has decided to go to CMO on today
   - Increased sedation with fentanyl
   - holding suctioning to spare Pt pain
   2. Hemorrhagic CVA: Unclear prognosis
   3. Psych: On Donepeizil, escitalopram, Zyprexa
   - Agitated. Now on PRN low dose olanzapine with good effect and
   fentanyl sedation
   4. Pulastile mass on the head at the site of CSF shunt:
   - Neurosurgery following, do not anticipate need for intervention
   5. ECG changes: resolved
   - CEs negative
   -Continue beta blocker, statin.
   6. Thrombocytopenia: Resolved
   7. Prophy: PPI, heparin
   8.  FEN:
   - Holding intervention
   8.  Access: 20g x2, PICC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: